US08048610B2
These recurring units may be synthesized, for example, by the following method. One exemplary compound may be synthesized by reacting 2-bromo-2,2-difluoroethanol with pivalic chloride or anhydride to form 2-bromo-2,2-difluoroethyl pivalate, converting the bromo group into sodium sulfinate using a sulfur compound such as sodium dithionite, and converting sulfinic acid into sulfonic acid using an oxidizing agent such as hydrogen peroxide. This is followed by cation exchange with a triarylsulfonium halide or the like. The pivalic ester is then subjected to alkaline hydrolysis. Through reaction with (meth)acrylic anhydride, the alcohol resulting from hydrolysis is converted into a (meth)acrylic derivative, yielding the end compound.

reactant | 2-bromo-2,2-difluoroethanol | BrC(CO)(F)F | C2H3BrF2O
reactant | pivalic chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2-bromo-2,2-difluoroethyl pivalate | C(C(C)(C)C)(=O)OCC(F)(F)Br | C7H11BrF2O2
